US06797723B1
Preparation of 2-{3-[3-(2-Ethyl-5-hydroxy-4-thiazol-2-yl-phenoxy)propoxy]-2-propyl-phenoxy}benzoic acid.
A mixture of 2-(3-{3-[5-benzyloxy-2-ethyl-4-(4,4,5,5-tetramethyl-[1,3,2]dioxaborolan-2-yl)phenoxy]propoxy}-2-propylphenoxy)benzoic acid methyl ester (960 mg, 1.41 mmol), 2-bromothiazole (0.25 mL, 2.8 mmol), cesium carbonate (1.15 g, 3.52 mmol), and PdC12(dppf) (35 mg, 0.040 mmol) in de-oxygenated toluene (35 mL) was heated at 60° C. for 16 h then at 100° C. for 7 h. Additional portions of 2-bromothiazole (0.13 mL) and PdCl2(dppf) (˜30 mg) were added and heating continued at 100° C. for 72 h. The mixture was cooled to room temperature, concentrated in vacuo, diluted with methylene chloride, and filtered down a short plug of silica gel. The filtrate was concentrated in vacuo. Chromatography (silica gel, hexane to 35% ethyl acetate/65% hexane) of the residue provided 282 mg (31%) of the title compound. 1H NMR (CDCl3) δ 8.20 (s, 1H), 7.86 (dd, J=8, 1 Hz, 1H), 7.82 (d, J=3 Hz, 1H), 7.49 (d, J=7 Hz, 2H), 7.35 (m, 4H), 7.23 (d, J=3 Hz, 1H), 7.09 (d, J=9 Hz, 1H), 7.04 (d, J=9 Hz, 1H), 6.7B (d, J=9 Hz, 1H), 6.65 (d, J=9 Hz, 1H), 6.57 (s, 1H), 6.42 (d, J=8 Hz, 1H), 5.24 (s, 2H), 4.17 (m, 4H), 3.81 (s, 3H), 2.63 (m, 4H), 2.33 (quintet, J=6 Hz, 2H), 1.55 (hextet, J=8 Hz, 2H), 1.19 (t, J=7 Hz, 3H), 0.88 (t, J=7 Hz, 3H).

reactant | 2-(3-{3-[5-benzyloxy-2-ethyl-4-(4,4,5,5-tetramethyl-[1,3,2]dioxaborolan-2-yl)phenoxy]propoxy}-2-propylphenoxy)benzoic acid methyl ester | 1.41 mmol, 960 mg | COC(C1=C(C=CC=C1)OC1=C(C(=CC=C1)OCCCOC1=C(C=C(C(=C1)OCC1=CC=CC=C1)B1OC(C(O1)(C)C)(C)C)CC)CCC)=O | C41H49BO8
reactant | 2-bromothiazole | 2.8 mmol, 0.25 mL | BrC=1SC=CN1 | C3H2BrNS
reactant | cesium carbonate | 3.52 mmol, 1.15 g | C([O-])([O-])=O.[Cs+].[Cs+]
reactant | 2-bromothiazole | 0.13 mL | BrC=1SC=CN1 | C3H2BrNS
catalyst | PdC12(dppf) | 0.040 mmol, 35 mg | C1=CC=C(C=C1)P([C-]2C=CC=C2)C3=CC=CC=C3.C1=CC=C(C=C1)P([C-]2C=CC=C2)C3=CC=CC=C3.Cl[Pd]Cl.[Fe+2]
catalyst | PdCl2(dppf) | ˜30 mg | C1=CC=C(C=C1)P([C-]2C=CC=C2)C3=CC=CC=C3.C1=CC=C(C=C1)P([C-]2C=CC=C2)C3=CC=CC=C3.Cl[Pd]Cl.[Fe+2]
product | 2-{3-[3-(2-Ethyl-5-hydroxy-4-thiazol-2-yl-phenoxy)propoxy]-2-propyl-phenoxy}benzoic acid | 282 mg, 31% | C(C)C1=C(OCCCOC=2C(=C(OC3=C(C(=O)O)C=CC=C3)C=CC2)CCC)C=C(C(=C1)C=1SC=CN1)O | C30H31NO6S
